US04237138
N-Acetyl-4-hydroxypiperidine (4.3 g.) in D.M.F. (50 ml.) was added dropwise to a stirred suspension of sodium hydride (3.0 g., 50% dispersion in mineral oil) in D.M.F. (50 ml.) under an atmosphere of nitrogen. After stirring for 3 hours at room temperature 2-[2,6-dimethoxyphenoxy]ethyl mesylate (9.0 g.) in D.M.F. (50 ml.) was added dropwise and stirring continued for 20 hours at room temperature. The solvent was evaporated in vacuo, the residue taken up in water, extracted with chloroform (3×100 ml.), the organic layer dried (Na2SO4) and the solvent evaporated. Distillation gave N-acetyl-4-(2-[2,6-dimethoxyphenoxy]ethoxy)piperidine (6.0 g.), b.p. 200° C. @ 1 mm.

reactant | N-Acetyl-4-hydroxypiperidine | 4.3 g | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | sodium hydride | 3.0 g | [H-].[Na+]
reactant | 2-[2,6-dimethoxyphenoxy]ethyl mesylate | 9.0 g | S(C)(=O)(=O)OCCOC1=C(C=CC=C1OC)OC | C11H16O6S
product | N-acetyl-4-(2-[2,6-dimethoxyphenoxy]ethoxy)piperidine | 6.0 g | C(C)(=O)N1CCC(CC1)OCCOC1=C(C=CC=C1OC)OC | C17H25NO5
